US05998470
Preparation of 1-(Cbz-leucinyl)-amino-3-(4-(3-chloro-2-cyano-phenoxy)-phenyl sulfonamido)-propan-2-one
Cbz-leucine (660 mg, 2.5 mmol), EDCI (480 mg, 2.5 mmol), HOBT (340 mg, 2.5 mmol) was dissolved in DMF (10 ml) with 1,3-diamino-propan-2-ol (225 mg, 2.5 mmol) and was stirred at RT overnight. N-methyl morpholine (0.41 ml, 3.75 mmol) was added followed by 4-(3-Chloro-2-cyano-phenoxy)-phenyl sulfonyl chloride (820 mg, 2.5 mmol, Maybridge) was added and the reaction was stirred 3 h at RT. The reaction was partitioned between water and EtOAc and the combined organics were dried with magnesium sulfate, then concentrated in vacuo. The crude 1-(Cbz-leucinyl)-amino-3-(4-(3-chloro-2-cyano-phenoxy)-phenyl sulfonamido)-propan-2-ol was then dissolved in acetone (5.0 ml) and Jones reagent (3.0 ml, 1.5 M) was added dropwise, and the reaction was stirred overnight at RT. The excess Jones reagent was then quenched with isopropanol (1.0 ml), then the reaction was diluted with EtOAc (20 ml) and was extracted with water (2×20 ml) to remove the inorganic salts. The combined organics were dried with magnesium sulfate, filtered, concentrated, and chromatographed (silica gel, 2-5% MeOH/methylene chloride), then the product was triturated from methylene chloride to give the title compound as a white solid (26 mg, 2%). MS(ES) M+H+ =627.

reactant | Cbz-leucine | 2.5 mmol, 660 mg | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | EDCI | 2.5 mmol, 480 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 2.5 mmol, 340 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1,3-diamino-propan-2-ol | 2.5 mmol, 225 mg | NCC(CN)O | C3H10N2O
reactant | N-methyl morpholine | 3.75 mmol, 0.41 ml | CN1CCOCC1 | C5H11NO
reactant | 4-(3-Chloro-2-cyano-phenoxy)-phenyl sulfonyl chloride | 2.5 mmol, 820 mg | ClC=1C(=C(OC2=CC=C(C=C2)S(=O)(=O)Cl)C=CC1)C#N | C13H7Cl2NO3S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(Cbz-leucinyl)-amino-3-(4-(3-chloro-2-cyano-phenoxy)-phenyl sulfonamido)-propan-2-one | 26 mg, 2% | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)C(C(CNS(=O)(=O)C1=CC=C(C=C1)OC1=C(C(=CC=C1)Cl)C#N)=O)N | C30H31ClN4O7S
